US09290451B2
c) 6-(Tetrahydro-pyran-4-ylmethoxy)-5-trifluoromethyl-pyridine-2-carboxylic acid ((S)-3,3-dimethyl-1-methylcarbamoyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-((tetrahydro-2H-pyran-4-yl)methoxy)-5-(trifluoromethyl)picolinic acid and (2S)-2-amino-N,4,4-trimethyl-pentanamide (CAN 1160161-70-5) as starting materials, MS (EI): m/e=446.4 [M+H]+.

reactant | 6-((tetrahydro-2H-pyran-4-yl)methoxy)-5-(trifluoromethyl)picolinic acid | O1CCC(CC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C13H14F3NO4
reactant | (2S)-2-amino-N,4,4-trimethyl-pentanamide | N[C@H](C(=O)NC)CC(C)(C)C | C8H18N2O
product | 6-(Tetrahydro-pyran-4-ylmethoxy)-5-trifluoromethyl-pyridine-2-carboxylic acid ((S)-3,3-dimethyl-1-methylcarbamoyl-butyl)-amide | CC(C[C@@H](C(NC)=O)NC(=O)C1=NC(=C(C=C1)C(F)(F)F)OCC1CCOCC1)(C)C | C21H30F3N3O4
